US07960546B2
4-[(3-Chloro-4-fluorophenyl)amino]-6-nitro-7-((5)-tetrahydrofuran-3-yloxy)-quinazoline
810 g of 4-(3-chloro-4-fluoro-phenylamino)-7-(phenylsulphonyl)-6-nitro-quinazoline and 175.5 g (S)-3-hydroxytetrahydrofuran (1.3 eq) are placed at 20° C. in 1.041 tert-butanol and 198 ml DMF, 2556 g K-tert.-butoxide in THF (24%) (3.6 eq) are added dropwise at 20° C. and then stirred for 4 h at 25° C. After a further 2 h at 40° C. the mixture is heated to 45° C. for about 2 h. 2.8 l of water are added and then about 3 l solvent are distilled off under reduced pressure. 2.8 l water are added again and about 900 ml solvent are distilled off under reduced pressure. After the addition of 1.6 l methanol the mixture is cooled to 20° C. The suspension is suction filtered and rinsed with a mixture of 3.2 l water and 1.6 l methanol. The residue is dried overnight at 50° C. under reduced pressure.

reactant | 4-(3-chloro-4-fluoro-phenylamino)-7-(phenylsulphonyl)-6-nitro-quinazoline | 810 g | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1 | C20H12ClFN4O4S
reactant | (S)-3-hydroxytetrahydrofuran | 175.5 g, 1.3 eq | O[C@@H]1COCC1 | C4H8O2
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
reactant | THF | 3.6 eq | C1CCOC1 | C4H8O
solvent | water | 2.8 l | O | H2O
solvent | DMF | 198 ml | CN(C)C=O | C3H7NO
product | 4-[(3-Chloro-4-fluorophenyl)amino]-6-nitro-7-((5)-tetrahydrofuran-3-yloxy)-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])O[C@@H]1COCC1 | C18H14ClFN4O4
